US05710164
3-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-pyridin-3-yl-acrylonitrile
To the solution of 2,3-dihydro-benzo[1,4]dioxin-6-carboxaldehyde (4.92 g; 0.03 mol) and 3-pyridylacetonitrile (3.54 g; 0.03 mol) in ethanol (100 mL) was added sodium methoxide (6.48 g, of 25% methanol solution, 0.03 mol). The mixture was allowed to stand at ambient temperature for 18 hours. The mixture was concentrated to half volume. The solid was collected by filtration and dried to give 7.0 g (88.4% yield) of the title compound as an off-white solid, m.p. 158°-159° C. Anal. Calcd. for C16H12N2O2 : C, 72.72; H, 4.58; N, 10.60. Found: C, 72.53; H, 4.48; N, 10.97. Mass spectrum (DEI; M+) m/z 264. 1 H-NMR (DMSO-d6 ; 400 MHz) δ 8.91 (d, 1H), 8.59 (d, 1H), 8.08 (d, 1H), 8.00 (s, 1H), 7.57 (d, 1H), 7.47-7.53 (m, 2H), 7.02 (d, 2H), and 4.31 ppm (m, 4H).

reactant | 2,3-dihydro-benzo[1,4]dioxin-6-carboxaldehyde | 0.03 mol, 4.92 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 3-pyridylacetonitrile | 0.03 mol, 3.54 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | sodium methoxide | 0.03 mol, 6.48 g | C[O-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2-pyridin-3-yl-acrylonitrile | 7.0 g, 88.4% yield | O1CCOC2=C1C=CC(=C2)C=C(C#N)C=2C=NC=CC2 | C16H12N2O2
